US06677349B1
Using the general method of Example 15 Part F, 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine (0.331 g, 1.0 mmol) was reacted with methanesulfonic anhydride to provide 0.14 g of N-[4-(4-Amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide as a white solid, m.p. 234-235° C. Mass spec M+1=410.2.

reactant | 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.0 mmol, 0.331 g | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | C20H21N5
reactant | methanesulfonic anhydride | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
product | N-[4-(4-Amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]methanesulfonamide | 0.14 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNS(=O)(=O)C)C2=CC=CC=C2 | C21H23N5O2S
